US06153768
Synthesis of 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-4-hydroxy-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman
To 9-(t-butyldimethylsilyloxy)-1-nonyne (2.23 g, 8.75 mmol) was added dry tetrahydrofuran (30 ml). Then n-butyl lithium (4.65 ml, 7.87 mol, 1.69 mol/l tetrahydrofuran solution) was added dropwise thereto at -78° C. and the resulting mixture was stirred for one hour at -20° C. At the same temperature, to the reaction solution was added 7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-one (550 mg, 1.75 mmol), as obtained in Example 26, dissolved in tetrahydrofuran (20 ml), and then the mixture was stirred for 24 hours at -10° C. When the reaction is completed, saturated ammonium chloride solution was added to the reaction solution which was then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (n-hexane:ethyl acetate=9:1) to obtain 946 mg (yield: 95%) of the title compound as a white solid.

reactant | 9-(t-butyldimethylsilyloxy)-1-nonyne | 8.75 mmol, 2.23 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#C | C15H30OSi
reactant | n-butyl lithium | 7.87 mol, 1.69 mol/l, 4.65 ml | C(CCC)[Li]
reactant | 7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-one | 1.75 mmol, 550 mg | COC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OC)=O | C18H18O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[9-(t-butyldimethylsilyloxy)-1-nonynyl]-4-hydroxy-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | 946 mg, yield: 95% | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1(C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC)O | C33H48O4SSi
